// Generated for: spectre
// Generated on: Jun 18 11:48:11 2026
// Design library name: SAR9B_400MV
// Design cell name: TB_SUBMOD_ASYCTRL_9CLK_PERF
// Design view name: schematic
simulator lang=spectre
global 0
parameters valid_per=2n valid_pw=1n valid_td=500p cload=1f vdd=900m
include "/home/IC/Desktop/Project/project_tsmcN28_NEW/project_tsmcN28_NEW/iPDK_CRN28HPC+_v1.0_2p2a_20160226_all/CRN28HPCp/models/spectre/toplevel.scs" section=top_tt

// Library name: SAR9B_400MV
// Cell name: NAND2X1
// View name: schematic
subckt NAND2X1 A B VDD VSS ZN
    M3 (ZN A net1 VSS) nch_mac l=30n w=100n multi=1 nf=1 sd=100n \
        ad=7.5e-15 as=7.5e-15 pd=350n ps=350n nrd=2.576626 nrs=2.576626 \
        sa=75n sb=75n sa1=75n sa2=75n sa3=75n sa4=75n sb1=75n sb2=75n \
        sb3=75n spa=100n spa1=100n spa2=100n spa3=100n sap=91.9776n \
        sapb=114.444n spba=115.715168n spba1=117.042727n dfm_flag=0 \
        spmt=1.11111e+15 spomt=0 spomt1=1.11111e+60 spmb=1.11111e+15 \
        spomb=0 spomb1=1.11111e+60
    M0 (net1 B VSS VSS) nch_mac l=30n w=100n multi=1 nf=1 sd=100n \
        ad=7.5e-15 as=7.5e-15 pd=350n ps=350n nrd=2.576626 nrs=2.576626 \
        sa=75n sb=75n sa1=75n sa2=75n sa3=75n sa4=75n sb1=75n sb2=75n \
        sb3=75n spa=100n spa1=100n spa2=100n spa3=100n sap=91.9776n \
        sapb=114.444n spba=115.715168n spba1=117.042727n dfm_flag=0 \
        spmt=1.11111e+15 spomt=0 spomt1=1.11111e+60 spmb=1.11111e+15 \
        spomb=0 spomb1=1.11111e+60
    M2 (ZN B VDD VDD) pch_mac l=30n w=200n multi=1 nf=1 sd=100n ad=1.5e-14 \
        as=1.5e-14 pd=550.0n ps=550.0n nrd=1.688887 nrs=1.688887 sa=75.0n \
        sb=75.0n sa1=75.0n sa2=75.0n sa3=75.0n sa4=75.0n sb1=75.0n \
        sb2=75.0n sb3=75.0n spa=100n spa1=100n spa2=100n spa3=100n \
        sap=91.9776n sapb=114.444n spba=115.715n spba1=117.043n dfm_flag=0 \
        spmt=1.11111e+15 spomt=0 spomt1=1.11111e+60 spmb=1.11111e+15 \
        spomb=0 spomb1=1.11111e+60
    M1 (ZN A VDD VDD) pch_mac l=30n w=200n multi=1 nf=1 sd=100n ad=1.5e-14 \
        as=1.5e-14 pd=550.0n ps=550.0n nrd=1.688887 nrs=1.688887 sa=75.0n \
        sb=75.0n sa1=75.0n sa2=75.0n sa3=75.0n sa4=75.0n sb1=75.0n \
        sb2=75.0n sb3=75.0n spa=100n spa1=100n spa2=100n spa3=100n \
        sap=91.9776n sapb=114.444n spba=115.715n spba1=117.043n dfm_flag=0 \
        spmt=1.11111e+15 spomt=0 spomt1=1.11111e+60 spmb=1.11111e+15 \
        spomb=0 spomb1=1.11111e+60
ends NAND2X1
// End of subcircuit definition.

// Library name: SAR9B_400MV
// Cell name: TRIGATEX1
// View name: schematic
subckt TRIGATEX1 IN OE OEN VDD VSS Z
    M0 (IN OE Z VSS) nch_mac l=30n w=100n multi=1 nf=1 sd=100n ad=7.5e-15 \
        as=7.5e-15 pd=350n ps=350n nrd=2.576626 nrs=2.576626 sa=75n sb=75n \
        sa1=75n sa2=75n sa3=75n sa4=75n sb1=75n sb2=75n sb3=75n spa=100n \
        spa1=100n spa2=100n spa3=100n sap=91.9776n sapb=114.444n \
        spba=115.715168n spba1=117.042727n dfm_flag=0 spmt=1.11111e+15 \
        spomt=0 spomt1=1.11111e+60 spmb=1.11111e+15 spomb=0 \
        spomb1=1.11111e+60
    M2 (IN OEN Z VDD) pch_mac l=30n w=200n multi=1 nf=1 sd=100n ad=1.5e-14 \
        as=1.5e-14 pd=550.0n ps=550.0n nrd=1.688887 nrs=1.688887 sa=75.0n \
        sb=75.0n sa1=75.0n sa2=75.0n sa3=75.0n sa4=75.0n sb1=75.0n \
        sb2=75.0n sb3=75.0n spa=100n spa1=100n spa2=100n spa3=100n \
        sap=91.9776n sapb=114.444n spba=115.715n spba1=117.043n dfm_flag=0 \
        spmt=1.11111e+15 spomt=0 spomt1=1.11111e+60 spmb=1.11111e+15 \
        spomb=0 spomb1=1.11111e+60
ends TRIGATEX1
// End of subcircuit definition.

// Library name: SAR9B_400MV
// Cell name: NOR2X1
// View name: schematic
subckt NOR2X1 A B VDD VSS ZN
    M3 (ZN A VSS VSS) nch_mac l=30n w=100n multi=1 nf=1 sd=100n ad=7.5e-15 \
        as=7.5e-15 pd=350n ps=350n nrd=2.576626 nrs=2.576626 sa=75n sb=75n \
        sa1=75n sa2=75n sa3=75n sa4=75n sb1=75n sb2=75n sb3=75n spa=100n \
        spa1=100n spa2=100n spa3=100n sap=91.9776n sapb=114.444n \
        spba=115.715168n spba1=117.042727n dfm_flag=0 spmt=1.11111e+15 \
        spomt=0 spomt1=1.11111e+60 spmb=1.11111e+15 spomb=0 \
        spomb1=1.11111e+60
    M0 (ZN B VSS VSS) nch_mac l=30n w=100n multi=1 nf=1 sd=100n ad=7.5e-15 \
        as=7.5e-15 pd=350n ps=350n nrd=2.576626 nrs=2.576626 sa=75n sb=75n \
        sa1=75n sa2=75n sa3=75n sa4=75n sb1=75n sb2=75n sb3=75n spa=100n \
        spa1=100n spa2=100n spa3=100n sap=91.9776n sapb=114.444n \
        spba=115.715168n spba1=117.042727n dfm_flag=0 spmt=1.11111e+15 \
        spomt=0 spomt1=1.11111e+60 spmb=1.11111e+15 spomb=0 \
        spomb1=1.11111e+60
    M2 (ZN B net2 VDD) pch_mac l=30n w=200n multi=1 nf=1 sd=100n \
        ad=1.5e-14 as=1.5e-14 pd=550.0n ps=550.0n nrd=1.688887 \
        nrs=1.688887 sa=75.0n sb=75.0n sa1=75.0n sa2=75.0n sa3=75.0n \
        sa4=75.0n sb1=75.0n sb2=75.0n sb3=75.0n spa=100n spa1=100n \
        spa2=100n spa3=100n sap=91.9776n sapb=114.444n spba=115.715n \
        spba1=117.043n dfm_flag=0 spmt=1.11111e+15 spomt=0 \
        spomt1=1.11111e+60 spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
    M1 (net2 A VDD VDD) pch_mac l=30n w=200n multi=1 nf=1 sd=100n \
        ad=1.5e-14 as=1.5e-14 pd=550.0n ps=550.0n nrd=1.688887 \
        nrs=1.688887 sa=75.0n sb=75.0n sa1=75.0n sa2=75.0n sa3=75.0n \
        sa4=75.0n sb1=75.0n sb2=75.0n sb3=75.0n spa=100n spa1=100n \
        spa2=100n spa3=100n sap=91.9776n sapb=114.444n spba=115.715n \
        spba1=117.043n dfm_flag=0 spmt=1.11111e+15 spomt=0 \
        spomt1=1.11111e+60 spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
ends NOR2X1
// End of subcircuit definition.

// Library name: SAR9B_400MV
// Cell name: INVX1
// View name: schematic
subckt INVX1 IN VDD VSS ZN
    M0 (ZN IN VSS VSS) nch_mac l=30n w=100n multi=1 nf=1 sd=100n \
        ad=7.5e-15 as=7.5e-15 pd=350n ps=350n nrd=2.576626 nrs=2.576626 \
        sa=75n sb=75n sa1=75n sa2=75n sa3=75n sa4=75n sb1=75n sb2=75n \
        sb3=75n spa=100n spa1=100n spa2=100n spa3=100n sap=91.9776n \
        sapb=114.444n spba=115.715168n spba1=117.042727n dfm_flag=0 \
        spmt=1.11111e+15 spomt=0 spomt1=1.11111e+60 spmb=1.11111e+15 \
        spomb=0 spomb1=1.11111e+60
    M1 (ZN IN VDD VDD) pch_mac l=30n w=200n multi=1 nf=1 sd=100n \
        ad=1.5e-14 as=1.5e-14 pd=550.0n ps=550.0n nrd=1.688887 \
        nrs=1.688887 sa=75.0n sb=75.0n sa1=75.0n sa2=75.0n sa3=75.0n \
        sa4=75.0n sb1=75.0n sb2=75.0n sb3=75.0n spa=100n spa1=100n \
        spa2=100n spa3=100n sap=91.9776n sapb=114.444n spba=115.715n \
        spba1=117.043n dfm_flag=0 spmt=1.11111e+15 spomt=0 \
        spomt1=1.11111e+60 spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
ends INVX1
// End of subcircuit definition.

// Library name: SAR9B_400MV
// Cell name: INVX2
// View name: schematic
subckt INVX2 IN VDD VSS ZN
    M0 (ZN IN VSS VSS) nch_mac l=30n w=200n multi=1 nf=1 sd=100n \
        ad=1.5e-14 as=1.5e-14 pd=550.0n ps=550.0n nrd=2.828877 \
        nrs=2.828877 sa=75.0n sb=75.0n sa1=75.0n sa2=75.0n sa3=75.0n \
        sa4=75.0n sb1=75.0n sb2=75.0n sb3=75.0n spa=100n spa1=100n \
        spa2=100n spa3=100n sap=91.9776n sapb=114.444n spba=115.715n \
        spba1=117.043n dfm_flag=0 spmt=1.11111e+15 spomt=0 \
        spomt1=1.11111e+60 spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
    M1 (ZN IN VDD VDD) pch_mac l=30n w=400n multi=1 nf=1 sd=100n ad=3e-14 \
        as=3e-14 pd=950.0n ps=950.0n nrd=0.522453 nrs=0.522453 sa=75.0n \
        sb=75.0n sa1=75.0n sa2=75.0n sa3=75.0n sa4=75.0n sb1=75.0n \
        sb2=75.0n sb3=75.0n spa=100n spa1=100n spa2=100n spa3=100n \
        sap=91.9776n sapb=114.444n spba=115.715n spba1=117.043n dfm_flag=0 \
        spmt=1.11111e+15 spomt=0 spomt1=1.11111e+60 spmb=1.11111e+15 \
        spomb=0 spomb1=1.11111e+60
ends INVX2
// End of subcircuit definition.

// Library name: SAR9B_400MV
// Cell name: INVX4
// View name: schematic
subckt INVX4 IN VDD VSS ZN
    M0 (ZN IN VSS VSS) nch_mac l=30n w=400n multi=1 nf=1 sd=100n ad=3e-14 \
        as=3e-14 pd=950.0n ps=950.0n nrd=0.896976 nrs=0.896976 sa=75.0n \
        sb=75.0n sa1=75.0n sa2=75.0n sa3=75.0n sa4=75.0n sb1=75.0n \
        sb2=75.0n sb3=75.0n spa=100n spa1=100n spa2=100n spa3=100n \
        sap=91.9776n sapb=114.444n spba=115.715n spba1=117.043n dfm_flag=0 \
        spmt=1.11111e+15 spomt=0 spomt1=1.11111e+60 spmb=1.11111e+15 \
        spomb=0 spomb1=1.11111e+60
    M1 (ZN IN VDD VDD) pch_mac l=30n w=800n multi=1 nf=1 sd=100n ad=6e-14 \
        as=6e-14 pd=1.75u ps=1.75u nrd=0.214332 nrs=0.214332 sa=75.0n \
        sb=75.0n sa1=75.0n sa2=75.0n sa3=75.0n sa4=75.0n sb1=75.0n \
        sb2=75.0n sb3=75.0n spa=100n spa1=100n spa2=100n spa3=100n \
        sap=91.9776n sapb=114.444n spba=115.715n spba1=117.043n dfm_flag=0 \
        spmt=1.11111e+15 spomt=0 spomt1=1.11111e+60 spmb=1.11111e+15 \
        spomb=0 spomb1=1.11111e+60
ends INVX4
// End of subcircuit definition.

// Library name: SAR9B_400MV
// Cell name: DFFRN
// View name: schematic
subckt DFFRN CLK D Q RN VDD VSS
    I0 (R net3 VDD VSS net2) NAND2X1
    I14 (D CLKP CLKN VDD VSS net3) TRIGATEX1
    I15 (net3 CLKN CLKP VDD VSS net9) TRIGATEX1
    I4 (net2 CLKN CLKP VDD VSS net8) TRIGATEX1
    I1 (net8 CLKP CLKN VDD VSS net1) TRIGATEX1
    I5 (RN net8 VDD VSS net6) NOR2X1
    I11 (net6 VDD VSS net7) INVX1
    I13 (CLK VDD VSS CLKP) INVX2
    I10 (RN VDD VSS R) INVX2
    I9 (CLKP VDD VSS CLKN) INVX2
    I7 (net6 VDD VSS net1) INVX2
    I2 (net2 VDD VSS net9) INVX2
    I12 (net7 VDD VSS Q) INVX4
ends DFFRN
// End of subcircuit definition.

// Library name: SAR9B_400MV
// Cell name: OR3X1
// View name: schematic
subckt OR3X1 A B C VDD VSS Z
    M9 (Z net3 VSS VSS) nch_mac l=30n w=400n multi=1 nf=1 sd=100n ad=3e-14 \
        as=3e-14 pd=950.0n ps=950.0n nrd=0.896976 nrs=0.896976 sa=75.0n \
        sb=75.0n sa1=75.0n sa2=75.0n sa3=75.0n sa4=75.0n sb1=75.0n \
        sb2=75.0n sb3=75.0n spa=100n spa1=100n spa2=100n spa3=100n \
        sap=91.9776n sapb=114.444n spba=115.715n spba1=117.043n dfm_flag=0 \
        spmt=1.11111e+15 spomt=0 spomt1=1.11111e+60 spmb=1.11111e+15 \
        spomb=0 spomb1=1.11111e+60
    M5 (net3 B VSS VSS) nch_mac l=30n w=400n multi=1 nf=1 sd=100n ad=3e-14 \
        as=3e-14 pd=950.0n ps=950.0n nrd=0.896976 nrs=0.896976 sa=75.0n \
        sb=75.0n sa1=75.0n sa2=75.0n sa3=75.0n sa4=75.0n sb1=75.0n \
        sb2=75.0n sb3=75.0n spa=100n spa1=100n spa2=100n spa3=100n \
        sap=91.9776n sapb=114.444n spba=115.715n spba1=117.043n dfm_flag=0 \
        spmt=1.11111e+15 spomt=0 spomt1=1.11111e+60 spmb=1.11111e+15 \
        spomb=0 spomb1=1.11111e+60
    M3 (net3 A VSS VSS) nch_mac l=30n w=400n multi=1 nf=1 sd=100n ad=3e-14 \
        as=3e-14 pd=950.0n ps=950.0n nrd=0.896976 nrs=0.896976 sa=75.0n \
        sb=75.0n sa1=75.0n sa2=75.0n sa3=75.0n sa4=75.0n sb1=75.0n \
        sb2=75.0n sb3=75.0n spa=100n spa1=100n spa2=100n spa3=100n \
        sap=91.9776n sapb=114.444n spba=115.715n spba1=117.043n dfm_flag=0 \
        spmt=1.11111e+15 spomt=0 spomt1=1.11111e+60 spmb=1.11111e+15 \
        spomb=0 spomb1=1.11111e+60
    M8 (net3 C VSS VSS) nch_mac l=30n w=400n multi=1 nf=1 sd=100n ad=3e-14 \
        as=3e-14 pd=950.0n ps=950.0n nrd=0.896976 nrs=0.896976 sa=75.0n \
        sb=75.0n sa1=75.0n sa2=75.0n sa3=75.0n sa4=75.0n sb1=75.0n \
        sb2=75.0n sb3=75.0n spa=100n spa1=100n spa2=100n spa3=100n \
        sap=91.9776n sapb=114.444n spba=115.715n spba1=117.043n dfm_flag=0 \
        spmt=1.11111e+15 spomt=0 spomt1=1.11111e+60 spmb=1.11111e+15 \
        spomb=0 spomb1=1.11111e+60
    M10 (Z net3 VDD VDD) pch_mac l=30n w=400n multi=1 nf=1 sd=100n \
        ad=3e-14 as=3e-14 pd=950.0n ps=950.0n nrd=0.522453 nrs=0.522453 \
        sa=75.0n sb=75.0n sa1=75.0n sa2=75.0n sa3=75.0n sa4=75.0n \
        sb1=75.0n sb2=75.0n sb3=75.0n spa=100n spa1=100n spa2=100n \
        spa3=100n sap=91.9776n sapb=114.444n spba=115.715n spba1=117.043n \
        dfm_flag=0 spmt=1.11111e+15 spomt=0 spomt1=1.11111e+60 \
        spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
    M7 (net3 C net1 VDD) pch_mac l=30n w=400n multi=1 nf=1 sd=100n \
        ad=3e-14 as=3e-14 pd=950.0n ps=950.0n nrd=0.522453 nrs=0.522453 \
        sa=75.0n sb=75.0n sa1=75.0n sa2=75.0n sa3=75.0n sa4=75.0n \
        sb1=75.0n sb2=75.0n sb3=75.0n spa=100n spa1=100n spa2=100n \
        spa3=100n sap=91.9776n sapb=114.444n spba=115.715n spba1=117.043n \
        dfm_flag=0 spmt=1.11111e+15 spomt=0 spomt1=1.11111e+60 \
        spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
    M6 (net1 B net2 VDD) pch_mac l=30n w=400n multi=1 nf=1 sd=100n \
        ad=3e-14 as=3e-14 pd=950.0n ps=950.0n nrd=0.522453 nrs=0.522453 \
        sa=75.0n sb=75.0n sa1=75.0n sa2=75.0n sa3=75.0n sa4=75.0n \
        sb1=75.0n sb2=75.0n sb3=75.0n spa=100n spa1=100n spa2=100n \
        spa3=100n sap=91.9776n sapb=114.444n spba=115.715n spba1=117.043n \
        dfm_flag=0 spmt=1.11111e+15 spomt=0 spomt1=1.11111e+60 \
        spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
    M1 (net2 A VDD VDD) pch_mac l=30n w=400n multi=1 nf=1 sd=100n ad=3e-14 \
        as=3e-14 pd=950.0n ps=950.0n nrd=0.522453 nrs=0.522453 sa=75.0n \
        sb=75.0n sa1=75.0n sa2=75.0n sa3=75.0n sa4=75.0n sb1=75.0n \
        sb2=75.0n sb3=75.0n spa=100n spa1=100n spa2=100n spa3=100n \
        sap=91.9776n sapb=114.444n spba=115.715n spba1=117.043n dfm_flag=0 \
        spmt=1.11111e+15 spomt=0 spomt1=1.11111e+60 spmb=1.11111e+15 \
        spomb=0 spomb1=1.11111e+60
ends OR3X1
// End of subcircuit definition.

// Library name: SAR9B_400MV
// Cell name: Asycontrol_logic_9clk
// View name: schematic
subckt Asycontrol_logic_9clk CLKC CLKO\<8\> CLKO\<7\> CLKO\<6\> CLKO\<5\> \
        CLKO\<4\> CLKO\<3\> CLKO\<2\> CLKO\<1\> CLKO\<0\> CLKS VALID VDD \
        VSS
    I11 (VALID CLKO\<8\> CLKO\<7\> CLKS VDD VSS) DFFRN
    I7 (VALID CLKO\<1\> CLKO\<0\> CLKS VDD VSS) DFFRN
    I6 (VALID CLKO\<2\> CLKO\<1\> CLKS VDD VSS) DFFRN
    I5 (VALID CLKO\<3\> CLKO\<2\> CLKS VDD VSS) DFFRN
    I4 (VALID CLKO\<4\> CLKO\<3\> CLKS VDD VSS) DFFRN
    I3 (VALID CLKO\<5\> CLKO\<4\> CLKS VDD VSS) DFFRN
    I2 (VALID CLKO\<6\> CLKO\<5\> CLKS VDD VSS) DFFRN
    I1 (VALID CLKO\<7\> CLKO\<6\> CLKS VDD VSS) DFFRN
    I0 (VALID VDD CLKO\<8\> CLKS VDD VSS) DFFRN
    I10 (CLKS VALID CLKO\<0\> VDD VSS CLKC) OR3X1
ends Asycontrol_logic_9clk
// End of subcircuit definition.

// Library name: SAR9B_400MV
// Cell name: TB_SUBMOD_ASYCTRL_9CLK_PERF
// View name: schematic
VSS_SRC (VSS 0) vsource dc=0 type=dc
VDD_SRC (VDD VSS) vsource dc=vdd type=dc
XASY (CLKC CLKO\<8\> CLKO\<7\> CLKO\<6\> CLKO\<5\> CLKO\<4\> CLKO\<3\> \
        CLKO\<2\> CLKO\<1\> CLKO\<0\> CLKS VALID VDD VSS) \
        Asycontrol_logic_9clk
VVALID (VALID VSS) vsource type=pulse val0=0 val1=vdd period=valid_per \
        delay=valid_td rise=5p fall=5p width=valid_pw
VCLKS (CLKS VSS) vsource type=pulse val0=vdd val1=0 period=100n delay=100p \
        rise=5p fall=5p width=99n
C_CLKC (CLKC VSS) capacitor c=cload
simulatorOptions options psfversion="1.1.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf
tran tran stop=28n errpreset=moderate write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save CLKS VALID CLKC CLKO\<0\> CLKO\<1\> CLKO\<2\> CLKO\<3\> CLKO\<4\> \
    CLKO\<5\> CLKO\<6\> CLKO\<7\> CLKO\<8\>
saveOptions options save=allpub
